US06235787B1
A solution of 0.504 g of 2(R)-[2-amino-1(R)-(tert-butoxycarbonyl)ethyl]-2′-(methanesulphonyl)-4-methyl-2′-phenylvalerohydrazide in 20 ml of dichloromethane was cooled to 0° C. while stirring and 0.242 g of 2-thiophenesulphonyl chloride was added. The mixture was left to come to room temperature and was stirred overnight. The solvent was evaporated and the residue was partitioned between ethyl acetate and 5% aqueous citric acid solution. The ethyl acetate layer was washed with saturated sodium hydrogen carbonate solution and then with saturated sodium chloride solution, dried over anhydrous magnesium sulphate and evaporated. The residue was triturated with ether and there was obtained 0.487 g of 2(R)-[1(R)-(tert-butoxycarbonyl)-2-[(2-thienyl)sulphonamido]ethyl]-2′-(methanesulphonyl)-4-methyl-2′-phenylvalerohydrazide in the form of a white solid.

reactant | 2(R)-[2-amino-1(R)-(tert-butoxycarbonyl)ethyl]-2′-(methanesulphonyl)-4-methyl-2′-phenylvalerohydrazide | 0.504 g | NC[C@H](C(=O)OC(C)(C)C)[C@H](C(=O)NN(C1=CC=CC=C1)S(=O)(=O)C)CC(C)C | C20H33N3O5S
reactant | 2-thiophenesulphonyl chloride | 0.242 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2(R)-[1(R)-(tert-butoxycarbonyl)-2-[(2-thienyl)sulphonamido]ethyl]-2′-(methanesulphonyl)-4-methyl-2′-phenylvalerohydrazide | 0.487 g | C(C)(C)(C)OC(=O)[C@@H](CNS(=O)(=O)C=1SC=CC1)[C@H](C(=O)NN(C1=CC=CC=C1)S(=O)(=O)C)CC(C)C | C24H35N3O7S3
